US09382238B2
To a mixture of ethyl 2,2-difluoro-3-(4-nitro-2-(trifluoromethyl)phenyl)propanoate (220 mg, 0.672 mmol) in MeOH (10 mL) was added Pd/C (71.6 mg, 0.672 mmol) under N2. The mixture was then stirred under a H2 atmosphere for 1 h. LCMS and TLC (PE/EA=5:1, Rf=0.3) showed the reaction was finished. The mixture was filtered and the filtrate was concentrated to give ethyl 3-(4-amino-2-(trifluoromethyl)phenyl)-2,2-difluoropropanoate (190 mg, 0.573 mmol, 85% yield): NMR (400 MHz, CD3OD-d4) δ 7.15 (s, 1H), 6.97 (d, J=2.2 Hz, 1H), 6.81 (dd, J=2.1, 8.4 Hz, 1H), 4.24 (q, J=7.1 Hz, 2H), 3.42 (t, J=16.8 Hz, 2H), 1.24 (t, J=7.1 Hz, 3H). ES-LCMS m/z 298 (M+H).

reactant | ethyl 2,2-difluoro-3-(4-nitro-2-(trifluoromethyl)phenyl)propanoate | 0.672 mmol, 220 mg | FC(C(=O)OCC)(CC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)F | C12H10F5NO4
reactant | EA | CC(OCC)=O | C4H8O2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 0.672 mmol, 71.6 mg | [Pd] | Pd
product | ethyl 3-(4-amino-2-(trifluoromethyl)phenyl)-2,2-difluoropropanoate | 0.573 mmol, 190 mg, 85% yield | NC1=CC(=C(C=C1)CC(C(=O)OCC)(F)F)C(F)(F)F | C12H12F5NO2
